US04229443
To a stirred solution of 4-(2'-oxopropyl)-pyridine (13.7 g) in methanol (135 ml), sodium borohydride (3.0 g) was added in portions. After stirring for 2 hours, the mixture was taken to dryness in vacuo. The residue was distributed between ethyl acetate and a minimum of water sufficient to dissolve inorganic salts. The organic phase was dried and evaporated to yield 4-(2'-hydroxypropyl)-pyridine as a colourless oil. The oil was dissolved in acetic acid (100 ml) and hydrogenated in the presence of Adam's catalyst (1 g) until 3 equivalents of hydrogen were consumed. The catalyst was removed by filtration and the filtrate was concentrated in vacuo to yield crude 4-(2'-hydroxypropyl)-piperidine which was used directly in the next step. In analogous manner 4-(2'-hydroxybutyl)-piperidine was prepared from 4-(2'-oxobutyl)-pyridine.

reactant | 4-(2'-oxopropyl)-pyridine | 13.7 g | O=C(CC1=CC=NC=C1)C | C8H9NO
reactant | sodium borohydride | 3.0 g | [BH4-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | methanol | 135 ml | CO | CH4O
product | 4-(2'-hydroxypropyl)-pyridine | OC(CC1=CC=NC=C1)C | C8H11NO
